US08461083B2
Preparation of 8-oxa-bicyclo[3.2.1]octane-2,4-dione
To a stirred solution of 8-oxa-bicyclo[3.2.1]oct-6-ene-2,4-dione (5.1 g) in ethanol (100 ml) was added palladium on charcoal (0.51 g, 5% by wt. catalyst) and the mixture hydrogenated at ambient temperature and pressure over 6 hours. The catalyst was removed by filtration and the solvent evaporated under reduced pressure to afford the required product containing some ethyl enolether of the required product.

reactant | 8-oxa-bicyclo[3.2.1]oct-6-ene-2,4-dione | 5.1 g | C12C(CC(C(C=C1)O2)=O)=O | C7H6O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.51 g | [Pd] | Pd
product | 8-oxa-bicyclo[3.2.1]octane-2,4-dione | C12C(CC(C(CC1)O2)=O)=O | C7H8O3
